US04480118
Synthesis of 2-isopropenyl-2-methoxycarbonylindane
Into 100 ml of dried pyridine, was dissolved 30.0 g (0.128 mole) of 2-(1-hydroxy-1-methylethyl)-2-methoxycarbonylindane. To the solution, was added dropwise 39.4 g (0.256 mole) of phosphorus oxychloride over a period of 30 minutes at room temperature. The mixture was heated at 100° C. to continue the reaction for further 4 hours. The reaction mixture was cooled to room temperature, poured into a mixture of 10% aqueous hydrochloric acid solution and ice, and extracted with ether. The aqueous layer was extracted twice with ether. The ether layers were combined, washed successively with water, saturated aqueous sodium hydrogencarbonate solution, and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain the intended product as a oily substance.

reactant | 2-(1-hydroxy-1-methylethyl)-2-methoxycarbonylindane | 0.128 mole, 30.0 g | OC(C)(C)C1(CC2=CC=CC=C2C1)C(=O)OC | C14H18O3
reactant | phosphorus oxychloride | 0.256 mole, 39.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-isopropenyl-2-methoxycarbonylindane | C(=C)(C)C1(CC2=CC=CC=C2C1)C(=O)OC | C14H16O2
